US07312343B2
(S)-2-Dimethoxymethyl-pyrrolidine hydrochloride
13.9 g Crude Boc-prolinal (70 mmol; Omega Chem, freshly distilled) were dissolved in 110 ml methanol and cooled to ˜15° C. A solution of 11.0 g (140 mmol) acetyl chloride in 30 ml methanol was added all at once and the yellowish solution was stirred at RT for 1 h (gas evolution). 66.9 g Trimethyl orthoformate (630 mmol) were now added and the reaction mixture was stirred at RT for 42 h. The solvent and the excess of the orthoester were removed by rotary evaporation (40° C./≧10 mbar) and the resulting 14.0 g beige, crystalline residue was crystallized from 300 ml hot ethyl acetate yielding after stirring at 0° C. for 17 h 8.9 g (70%) white needles, [α]D=−15.4 (CHCl3; c=1). 1H-NMR:

reactant | Boc-prolinal | 13.9 g | C(=O)(OC(C)(C)C)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | acetyl chloride | 140 mmol, 11.0 g | C(C)(=O)Cl | C2H3ClO
reactant | Trimethyl orthoformate | 630 mmol, 66.9 g | C(OC)(OC)OC | C4H10O3
solvent | methanol | 30 ml | CO | CH4O
product | (S)-2-Dimethoxymethyl-pyrrolidine hydrochloride | Cl.COC([C@H]1NCCC1)OC | InChI=1S/C7H15NO2.ClH/c1-9-7(10-2)6-4-3-5-8-6;/h6-8H,3-5H2,1-2H3;1H/t6-;/m0./s1
